US04281008
A solution of 7-benzyloxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-carboxaldehyde (1.0 g) in dry benzene (30 ml) was added to a stirred solution of carbethoxymethylene-triphenylphosphorane (1.1 g) in dry benzene (50 ml). After 1 hour the solvent was evaporated and the remaining white solid was extracted several times with ether. The combined and concentrated ether washings were chromatographed over silica gel (100 g). Elution with ether afforded a white solid which was crystallised from ether to yield trans ethyl 3-(7-benzyloxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl)acrylate (0.45 g) mp 140° C., a compound of the invention.

reactant | 7-benzyloxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-carboxaldehyde | 1.0 g | C(C1=CC=CC=C1)OC1=C(C2=C(C(C=C(O2)C=O)=O)C=C1)CCC | C20H18O4
reactant | carbethoxymethylene-triphenylphosphorane | 1.1 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trans ethyl 3-(7-benzyloxy-4-oxo-8-n-propyl-4H-1-benzopyran-2-yl)acrylate | 0.45 g | C(C1=CC=CC=C1)OC1=C(C2=C(C(C=C(O2)/C=C/C(=O)OCC)=O)C=C1)CCC | C24H24O5
